US04518602
A solution of diisopropylamine (0.21 ml, 1.46 mmole) in tetrahydrofurane (3 ml) was cooled at -60° C. under argon, and a hexane solution of n-butyl lithium (1.6M, 0.92 ml, 1.46 mmole) was added dropwise to the solution. After stirring for 10 minutes, a solution of methyl (E)-7-phenyl-7-(3-pyridyl)-6-heptenoate (360 mg, 1.22 mmole) in tetrahydrofuran (2 ml) was added dropwise to the solution, followed by stirring at -60° to -70° C. for 20 minutes. Subsequently, methyl iodide (0.12 ml, 1.83 mmole) was added, and the reaction was allowed to proceed at the same temperature for 1 hour. Saturated aqueous ammonium chloride was added to the reaction mixture, and the product was extracted with ethyl acetate. The organic layer was washed with water, dried (magnesium sulfate) and concentrated. The residue was chromatographed on silica gel, and development was effected with isopropyl ether:ethyl acetate (7:3) to yield methyl (E)-2-methyl-7-phenyl- 7-(3-pyridyl)-6-heptenoate (3-a) (270 mg, 71.6 %).

reactant | diisopropylamine | 1.46 mmole, 0.21 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.46 mmole, 1.6M, 0.92 ml | C(CCC)[Li]
reactant | methyl (E)-7-phenyl-7-(3-pyridyl)-6-heptenoate | 1.22 mmole, 360 mg | C1(=CC=CC=C1)\C(=C/CCCCC(=O)OC)\C=1C=NC=CC1 | C19H21NO2
reactant | methyl iodide | 1.83 mmole, 0.12 ml | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofurane | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | methyl (E)-2-methyl-7-phenyl- 7-(3-pyridyl)-6-heptenoate | 270 mg, 71.6 % | CC(C(=O)OC)CCC\C=C(\C=1C=NC=CC1)/C1=CC=CC=C1 | C20H23NO2
